US08236806B2
1-(2-fluorophenyl)-4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 92)
57 mg (70%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (55 mg, 0.187 mmol), 1-(2-fluorophenyl)piperazine (0.027 mL, 0.170 mmol), DIPEA (0.030 mL, 0.170 mmol) and NaBH(OAc)3 (108 mg, 0.510 mmol).

reactant | 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.187 mmol, 55 mg | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15FN2O
reactant | 1-(2-fluorophenyl)piperazine | 0.170 mmol, 0.027 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.170 mmol, 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.510 mmol, 108 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C28H28F2N4
